US07179812B2
A solution of 2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-4-chloromethyl-oxazole (0.800 g, 2.94 mmol) and sodium acetate (0.482 g, 5.88 mmol) in acetic acid (10 ml) is refluxed for 55 h. The reaction mixture is cooled to r.t., concentrated in vacuo and the resulting residue is dissolved in ethanol (4 ml) and 5M potassium hydroxide (KOH) (15 ml). The solution is refluxed for 5 h and cooled to r.t. Saturated ammonium chloride (NH4Cl) is added and the mixture is extracted with ethyl acetate (3×). The extract is washed with brine, dried over Na2SO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate/hexanes 1:1) yielding {2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-yl}-methanol as a colorless solid. Yield 0.582 g (78%).

reactant | 2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-4-chloromethyl-oxazole | 2.94 mmol, 0.800 g | ClC1=CC(=C(C=C1)C=CC=1OC=C(N1)CCl)F | C12H8Cl2FNO
reactant | sodium acetate | 5.88 mmol, 0.482 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | {2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-yl}-methanol | ClC1=CC(=C(C=C1)C=CC=1OC=C(N1)CO)F | C12H9ClFNO2
